US07217838B2
Methyl 2-(4-phenoxyphenyl)acetate
To a solution of 4-phenoxyphenylacetic acid (1.0 g, 4.38 mmoles) in methanol (5.0 ml) was added concentrated sulfuric acid (0.05 ml, 0.88 mmoles) and the mixture was heated to reflux for about 5 hours. The mixture was cooled and concentrated under reduced pressure. To the residue was added a saturated aqueous solution of sodium bicarbonate (20.0 ml) and the mixture was extracted with ethyl acetate. The combined organic extracts were washed with water and brine, dried over MgSO4, filtered and evaporated to dryness to afford the title compound.

reactant | 4-phenoxyphenylacetic acid | 4.38 mmoles, 1.0 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)O | C14H12O3
reactant | sulfuric acid | 0.88 mmoles, 0.05 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 5.0 ml | CO | CH4O
product | Methyl 2-(4-phenoxyphenyl)acetate | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)OC | C15H14O3
